US07176242B2
A solution of 7-bromoisoquinolin-1-ol (2.5 g, 11.1 mmol) and POCl3 (10.4 mL, 111 mmol) was stirred at 70° C. for 2.5 h. The reaction mixture was cooled to room temperature, poured into ice water, and the solution was stirred overnight. The aqueous mixture was diluted with chloroform, washed with a saturated solution of NaHCO3, saturated NaCl, dried (MgSO4), filtered, and concentrated under reduced pressure to afford 7-bromo-1-chloroisoquinoline (2.3 g): 1H NMR (300 MHz, DMSO-d6) δ 8.39–8.36 (m, 2H), 8.09–8.02 (m, 2H), 7.95 (d, J=6 Hz, 1H).

reactant | 7-bromoisoquinolin-1-ol | 11.1 mmol, 2.5 g | BrC1=CC=C2C=CN=C(C2=C1)O | C9H6BrNO
reactant | POCl3 | 111 mmol, 10.4 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 7-bromo-1-chloroisoquinoline | 2.3 g | BrC1=CC=C2C=CN=C(C2=C1)Cl | C9H5BrClN
